Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
codeine / Penicillins
 
Attending: ___.
 
Chief Complaint:
language difficulty
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms ___ is a ___ year old right handed woman with a history of
two prior DVTs, who presents to the Emergency Department after 
an
episode of confusion and difficulty speaking yesterday. History
is primarily obtained from the patient as well as her husband.

She was recently evaluated in the ED on ___ due to abdominal
pain. CT scan and ultrasound were unremarkable. She was
discharged home. She has otherwise been in her usual state of
health. 

Yesterday, ___, she went to a movie with her friend. She was
feeling well when she entered the movie theater at 1:30pm.
However, not long after, when the movie began, she noticed that
she seemed to be having trouble understanding the subtitles on
the screen. She felt that she was able to identify only some
letters on the screen, but could not interpret them as words. 
The
subtitles seemed to move too fast for her to keep up. At the 
same
time, she felt that the words spoken in the movie (some of them
were in ___ also did not make sense to her. She alternately
describes this as a muffled quality, as well as having a hard
time understanding the words. She asked her friend if the volume
of the movie seemed ok, and her friend said it was. She does not
think there was any laterality to the problems, ie, the 
subtitles
seemed equally unclear on both the left and right side of the
screen. The images were otherwise not blurred, missing, or
distorted. 

After the movie, she was talking to her friend who asked if she
enjoyed the movie. She said "I think I missed it" since she felt
like she had a hard time focusing. They continued to talk, and
her friend noted that her language seemed to intermittently not
make sense. She made some paraphasic errors, including 
"partying"
instead of "plant shopping". She also introduced her friend to
some other people as ___, when her real name is ___. 

She called her husband at about 4pm. To him, her speech sounded
somewhat slow and deliberate, but not particularly slurred. She
told him she didn't fell well. She drove herself home without 
any
problems. She then took a nap until about 6 or 6:30pm. When she
woke up, her speech seemed improved, but her husband noted that
she was quieter than usual. However, she did send some texts to
some friends which also included some paraphasic errors, for
example adding extra words that didnt make sense. That evening
they went to the ___ game, where she did not have any 
further
problems. They left early and she went to bed around 10pm. 

This morning, she got up at about 9am. When she did, she noted
that she had a dull, aching headache on the left side. There was
no throbbing, nor any nausea, vomiting, photo- or phonophobia.
She denies any headache yesterday. She called the oncall nurse 
at
___, who recommended she present to the ED.

Currently, she still complains of the same headache. Her speech
has been normal all day today. She denies any prior similar
episodes. 

 
Past Medical History:
-Migraine headaches- usually with aura of scintillating scotoma.
Triggers include excess sun exposure. Usually respond to 
Tylenol.
-DVT- one during pregnancy and one last year in the context of
knee surgery. Completed 3 months Apixaban.
-Cholecystectomy
-Diverticulosis
-Multinodular goiter s/p partial thyroidectomy                   


-Meniscus tear
-Osteopenia  
 
Social History:
___
Family History:
Father died of an MI at age ___. Brother has coronary artery
disease, unclear age of onset. Mother died of lung cancer at age
___. Has three grown sons, all of whom are healthy.    
 
Physical Exam:
Vitals: T: 98.3 BP: 113/67 HR: 86 RR: 18 SaO2: 98% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 5 minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     1      1      1     0
R   2     1      1      1     0 
Plantar response was mute bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.

Discharge Exam:

24 HR Data (last updated ___ @ 505)
    Temp: 98.5 (Tm 98.5), BP: 122/72 (122-123/72-78), HR: 74
(65-74), RR: 17 (___), O2 sat: 94% (94-97), O2 delivery: RA  
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic:

-Mental Status: Alert, oriented x 3. Attentive, able to name ___
backward without difficulty. Language is fluent with normal
grammar and syntax. Naming intact low but not the lowest
frequency objects.  Able to follow complex cross body and 
reverse
order commands. 

-Cranial Nerves: Facial sensation intact to light touch. Face
symmetric at rest and with activation. Hearing intact to
conversation. Palate elevates symmetrically. ___ strength in
trapezii bilaterally. Tongue protrudes in midline and moves
briskly to each side. No dysarthria. 

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5                 
R  5    ___   ___  5   5    5  5                 

-Sensory:  Intact to LT throughout. 

-Coordination: not tested

-gait: did not walk

 
Pertinent Results:
___ 01:44PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 01:17PM   %HbA1c-5.6 eAG-114
___ 01:17PM   D-DIMER-1404*
___ 01:00PM   GLUCOSE-144* UREA N-12 CREAT-0.8 SODIUM-141 
POTASSIUM-4.2 CHLORIDE-107 TOTAL CO2-22 ANION GAP-12
___ 01:00PM   CHOLEST-170
___ 01:00PM   TRIGLYCER-93 HDL CHOL-77 CHOL/HDL-2.2 
LDL(CALC)-74
___ 01:00PM   TSH-2.3

CTA chest:
No evidence of pulmonary embolism or aortic abnormality.

CT/CTA head:
1. Hypodense foci in the left posterior temporal lobe and left 
posterior 
perisylvian cortex are most consistent with subacute infarct.  
No hemorrhage. 
2. Short-segment moderate to severe nonocclusive narrowing along 
the distal 
left M2 inferior division (series 463, image 21), which may 
represent 
atherosclerotic disease versus thrombus.  The remainder the CTA 
head 
demonstrates no evidence of high-grade stenosis, aneurysm or 
occlusion. 
3. Allowing for atherosclerotic disease, unremarkable CTA of the 
neck. 
4. Status post left thyroidectomy.  Multiple subcentimeter 
lesions are seen in 
the right thyroid lobe, some of which demonstrate peripheral 
hyperdensity. 
5. Additional findings as described above. 
  
RECOMMENDATION(S):  Thyroid nodule.  No follow up recommended. 
Absent suspicious imaging features, unless there is additional 
clinical 
concern, ___ of Radiology guidelines do not 
recommend further 
evaluation for incidental thyroid nodules less than 1.0 cm in 
patients under 
age ___ or less than 1.5 cm in patients age ___ or ___. 
  
Suspicious findings include: Abnormal lymph nodes (those 
displaying 
enlargement, calcification, cystic components and/or increased 
enhancement) or 
invasion of local tissues by the thyroid nodule. 

MR head:
1. Late acute to subacute infarcts in the left posterior 
temporal lobe and 
left posterior perisylvian cortex.  No hemorrhage. 

Lower extremity US:
  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

 
Brief Hospital Course:
This is a ___ year old woman with a history of two prior DVTs who
presents to the ED after an episode of confusion and difficulty
with speech yesterday, lasting about 6 hours in total. 

Her symptoms have since resolved, and her neurologic exam
including language function is normal. CT/CTA was done with no 
findings. MR brain showed late acute to subacute infarcts in the 
left posterior temporal lobe and 
left posterior perisylvian cortex. No hemorrhage. A TIA work up 
was pursued. Bilateral lower extremity ultrasound found no DVTs. 
TTE found no PFO however did find posterior leaflet mitral valve 
prolapse with mild to moderate mitral regurgitation. These 
findings make atrial fibrillation a more likely cause for the 
infarct. A ziopatch was placed and she was deemed ready for 
discharge. 

Initially on presentation, it was found that her D-dimer was 
elevated and given recent ED visit for chest pain, a CTA chest 
was ordered to rule out PE. No PE was found. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO WEEKLY 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
3. Cyanocobalamin Dose is Unknown  PO DAILY 
4. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Atorvastatin 10 mg PO QPM 
RX *atorvastatin 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
3.  Cyanocobalamin 25 mcg PO DAILY  
4.  Vitamin D 1000 UNIT PO DAILY  
5.  Alendronate Sodium 70 mg PO WEEKLY  
6.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cerebral vascular infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
You were hospitalized due to symptoms of reading difficulty 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. We assessed your for DVTs in your legs which came back 
negative. We also did an echocardiogram of your heart to 
determine if you had a whole in your heart called a patent 
foramen ovale and this was not found. It was found that you have 
some leakiness of your valves in your heart. This may be a sign 
that you have atrial fibrillation. As a result we would like to 
send you home with a holter monitor called a zio patch. We would 
also like you to get referred to cardiology for an outpatient 
follow up appointment. 

We are changing your medications as follows:  
 -we added daily aspirin 81
 -we added atorva 10

Please take your other medications as prescribed. 

You will be sent home with a ziopatch cardiac holter monitor 
which you will need to send back in two weeks. Your primary care 
physician/cardiologist will follow up the results with you. 
 
Please follow up with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___